Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine
 
Attending: ___.
 
Chief Complaint:
melena, abdominal pain
 
Major Surgical or Invasive Procedure:
___ EGD
___ barium swallow

 
History of Present Illness:
Mrs. ___ is a ___ with PMH significant for morbid obesity 
s/p gastric bypass, multiple GI surgeries including J-tube c/b 
perforated colon, CCY, history of recurrent esophageal 
candidiasis, DVT/PE and recent stroke on coumadin who presents 
from rehab with melena. The patient reports 1 week of melena 
once per day. She was noted to have a decreased H/H (8.7/27.8) 
and transferred to the ED. Coumadin was discontinued 2 days ago 
in light of melena. The patient reports having episodes of 
hypotension (SBP ___ while at rehab. She also complains of 
worsening abdominal pain in the epigastrum. She denies fevers, 
chills, nausea, vomiting, hematemesis, chest pain, and shortness 
of breath.  

Of note, the patient was admitted in ___, where she underwent 
EGD on ___ for recurrent symptoms of dysphagia, which was 
notable for severe esophagitis of the mid and distal esophagus. 
The procedure was complicated by a superificial tear on 
withdrawal of the scope, for which an endoclip was applied for 
hemodstasis.

Since her last discharge, she was seen at ___ with 
acute left facial droop and increased weakness of L limbs. Head 
CT, MRI of head and neck, bilateral carotid ultrasound, echo per 
report unremarkable. EF 60% without thrombus. 
 
In the ED, initial vitals: 97.0 70 108/60 18 98% RA. Labs were 
notable for Hb 9.3 -> 7.6 -> 8.2 -> 11.0 (s/p 1 uRBC, baseline 
___, INR 1.2, BUN 16, Cr 0.8, and lactate 2.0. UA showed 
large leuk, positive nitrites, 15 WBC, and few bacteria. CT 
Abd/pelvis showed no acute findings. The patient was given 
pantoprazole 40mg IV, zofran 4mg IV, and dilaudid IV, and CTX x 
1. She received 2 units in the ED, with appropriate rise in her 
Hct. GI was consulted who recommended EGD in the morning.  
Vitals prior to transfer were: 97.7 67 105/60 16 97% RA.  

Upon arrival to the floor, the patient states that she began 
experiencing dark tarry stools approximately one week ago, 
approximately once per day. She states that since yesterday, she 
began experiencing centrally located abdominal pain, as well as 
burning in the epigastric region, similiar to her esophagitis 
pain in the past. She endorses nausea. She states she has 
chronic UTI symptoms which they are unable to treat and endorses 
dysuria and frequency. 

Upon review of the ___ rehabilitation records, her Hb was 
stable over the last few days 8.9 (from 11.2 in ___ -> 8.6 
-> 9.1 -> 8.7 -> sent to ___.

 
Past Medical History:
- Morbid obesity status post gastric bypass and cholecystectomy 
in ___ with subsequent reversal surgery at the ___ - 
multiple prior abdominal surgeries including a J-tube in ___ 
with apparent complication of a perforated colon.  
- History of recurrent esophageal candidiasis s/p treatment  
- History of hypertension, DM, and asthma prior to gastric 
bypass.  
- DVT and PE in ___ on warfarin.  
- CVA with residual Lt sided weakness and slurred speech  
- History of SBO  
- Chronic pain  
- History of opiate addiction: prior intranasal heroin, oral 
dilaudid abuse, on methaone.  
- Degenerative disc disease  
- Depression/anxiety  

 
Social History:
___
Family History:
Mother with diabetes and HTN. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.0 128/76 53 100% on RA
Admission weight: 93.2 kg
GENERAL: Alert, oriented, no acute distress, tearful  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP difficult to assess, no LAD  
LUNGS: Clear to auscultation anteriorly, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, obese, mild periumbilical tenderness and epigastric 
tenderness, no rebound or gaurding
EXT: Warm, well perfused, 2+ pulses, trace pedal edema
NEURO:  alert and oriented, mild left sided facial droop, ___ 
strength in right upper and lower extremity, ___ strength in 
left upper and lower extremity

DISCHARGE PHYSICAL EXAM:
Vitals: Tm 99.0, 99/59, 67, 18, 97%RA
GENERAL: Alert, oriented, uncomfortable with basin in lap 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP difficult to assess 
LUNGS: Clear to auscultation anteriorly, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, obese, + diffuse tenderness, bowel sounds present, no 
guarding
EXT: Warm, well perfused, 2+ pulses, trace pedal edema
NEURO:  alert and oriented, mild left sided facial droop

 
Pertinent Results:
ADMISSION LABS:

___ 11:11PM   HGB-8.2* calcHCT-25
___ 11:00PM   WBC-3.2* RBC-2.44* HGB-8.2* HCT-25.8* 
MCV-106* MCH-33.8* MCHC-31.9 RDW-14.9
___ 11:00PM   PLT COUNT-222
___ 10:15PM   WBC-3.0* RBC-2.17* HGB-7.6* HCT-23.5* 
MCV-109* MCH-35.0* MCHC-32.3 RDW-14.9
___ 10:15PM   PLT COUNT-179
___:09PM   LACTATE-2.0 K+-5.2*
___ 05:45PM   GLUCOSE-72 UREA N-16 CREAT-0.8 SODIUM-135 
POTASSIUM-7.7* CHLORIDE-104 TOTAL CO2-26 ANION GAP-13
___ 05:45PM   ALT(SGPT)-31 AST(SGOT)-136* ALK PHOS-50 TOT 
BILI-0.3
___ 05:45PM   LIPASE-18
___ 05:45PM   ALBUMIN-2.8* CALCIUM-7.9* PHOSPHATE-4.5 
MAGNESIUM-1.8
___ 05:45PM   ___ PTT-32.8 ___
___ 05:15PM   GLUCOSE-71 UREA N-16 CREAT-0.8 SODIUM-140 
POTASSIUM-5.6* CHLORIDE-106 TOTAL CO2-24 ANION GAP-16
___ 05:15PM   estGFR-Using this
___ 05:15PM   WBC-4.2 RBC-2.76* HGB-9.3* HCT-29.3* MCV-106* 
MCH-33.6* MCHC-31.7 RDW-14.8
___ 05:15PM   NEUTS-43.7* LYMPHS-49.3* MONOS-4.9 EOS-1.8 
BASOS-0.4
___ 05:15PM   PLT COUNT-239

DISCHARGE LABS:

___ 01:41AM BLOOD WBC-4.4 RBC-3.31* Hgb-10.8* Hct-34.6 
MCV-105* MCH-32.6* MCHC-31.2* RDW-15.6* RDWSD-59.9* Plt ___
___ 01:41AM BLOOD ___ PTT-49.7* ___
___ 05:43AM BLOOD ___ PTT-50.0* ___
___ 06:13AM BLOOD ___ PTT-71.9* ___
___ 06:14AM BLOOD ___ PTT-62.1* ___

CT ABD/PELVIS:  ___
1. No acute findings within the abdomen or pelvis on CT exam.  
2. Postsurgical changes from multiple prior bowel surgeries, 
including gastric bypass reversal surgery. No evidence of 
obstruction. However, it is difficult to delineate the GI tract 
anatomy. There is no convincing evidence of wall thickening in 
the gastric remnant. Given history of epigastric pain, 
correlation with endoscopy results and surgical report is 
recommended.  
3. Unchanged intra and extrahepatic biliary ductal dilatation 
and main pancreatic duct dilatation in the setting of prior 
cholecystectomy.

EGD ___
Grade C esophagitis in the mid and distal esophagus compatible 
with severe esophagitis
Evidence of prior gastric surgical intervention was seen. There 
was a staple. The anastamosis was carefully examined and 
appeared normal. Two outpouchings were seen, one with retained 
food contents and small amount of blood. Could not rule out 
fistula.
Normal mucosa in the duodenum
Otherwise normal EGD to proximal jejunum

CXR ___
FINDINGS: 
Linear platelike atelectasis in the left lower lung with similar 
to exam
earlier on the same date.  Opacity just medial to this is 
overall unchangedand does not have the typical appearance of 
pneumonia on the lateral view -maybe some atelectasis. The right 
lung is clear.  No pneumothorax. Small leftpleural effusion.  
The heart is normal in size. The mediastinum is not widened. The 
hila are within normal limits.
IMPRESSION: 
Small left pleural effusion. No convincing radiographic evidence 
for
pneumonia.

 
Brief Hospital Course:
___ with PMH significant for morbid obesity s/p gastric 
bypass, multiple GI surgeries including J-tube c/b perforated 
colon, CCY, history of recurrent esophageal candidiasis, DVT/PE, 
and CVA on coumadin who presented with melena and anemia. 

# Upper GI Bleed: Patient presented with melena, anemia, and 
hypotension at her rehab center with SBP in the ___. In the 
___ ED, she received 2 units of PRBCs with appropriate rise in 
her Hb. EGD on ___ showed Grade C esophagitis in the mid and 
distal esophagus compatible with severe esophagitis, as well as 
two outpouchings. She underwent barium swallow that was negative 
for fistula. She was continued on pantoprazole 40mg BID. 
Hemoglobin on day of discharge was 10.8.

# Urinary Tract Infection: Patient with a positive UA, with 
symptoms of dysuria, frequency, and worsening abdominal pain. 
Per ___ records, she has a history of MDR and VRE. She was 
started on ceftriaxone on ___, however, urine cultures 
subsequently grew MDR e.coli. She completed a 5 day course of 
zosyn.

# Leukocytosis: Patient with an increased leukocytosis from 4.8 
to 12.1 while on ceftriaxone for UTI (see above), which could 
represent a stress response given recent EGD and upper GI bleed. 
CXR without pneumonia, blood cultures no growth to date. She was 
treated for UTI as above, with resolution of her leukocytosis. 

# Anticoagulation for history of DVT/PE in ___. Coumadin held 
at rehab given concern for GI bleed. Admission INR of 1.2. Prior 
hematology notes recommended ongoing anticoagulation while the 
patient is immobile, particularly during hospitalizations given 
the extent of her prior VTE.  As she was admitted with UGIB, her 
coumadin continued to be held. As her H/H were subsequently 
stable, the risks and benefits of resuming coumadin. Her 
coumadin was restarted with Lovenox SC as bridging therapy. On 
the day of discharge her INR was 2.1 so her Lovenox was stopped. 
Her INR should be checked daily until her INR stabilizes.

# Acute on Chronic abdominal pain: Patient has a history of 
chronic abdominal pain, and a history of prior narcotic abuse. 
CT A/P was obtained given worsening abdominal pain that was 
negative for acute process. She was continued on her home 
methadone, oxycodone, senna, and sulcrafate. 

CHRONIC ISSUES: 

# History of CVA: Patient has residual left sided weakness. 
Likely not on aspirin given NSAIDS allergy. No record of atrial 
fibrillation of known cause. She reports recrudescence of 
symptoms which occured in the setting of holding warfarin for an 
outpatient spinal surgery. We attempted unsuccessfully to obtain 
OSH records. Given her severe esophagitis, the risks and 
benefits of anticoagulation were discussed with the patient and 
the family, and decision was made to restart anticoagulation 
with warfarin. 
 
# Anxiety/depression:  Continued home medications: seroquel, 
clonazepam, BuPROPion, Doxepin.

===== TRANSITIONAL ISSUES =====

TRANSITIONAL ISSUES:
- Given severe esophagitis, patient should be continued on high 
dose PPI BID.
- Risks/benefits of anticoagulation were discussed with the 
family, and the patient was resumed on coumadin; given severe 
esophagitis and risk of re-bleed, recommend re-checking 
hemoglobin/hematocrit on ___. Hgb 10.8 on the day of 
discharge.
- Please check INR daily until stabilized on regimen.
- Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO TID 
2. BuPROPion (Sustained Release) 150 mg PO BID 
3. Calcium Carbonate 1000 mg PO QID:PRN GI distress 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Docusate Sodium 100 mg PO QHS 
6. Doxepin HCl 100 mg PO HS 
7. Ferrous Sulfate 325 mg PO TID 
8. FoLIC Acid 1 mg PO DAILY 
9. Lidocaine 5% Patch 1 PTCH TD QAM 
10. Methadone 20 mg PO Q8H 
11. Multivitamins 1 TAB PO DAILY 
12. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
13. QUEtiapine Fumarate 100 mg PO QAM 
14. QUEtiapine Fumarate 300 mg PO HS 
15. Senna 8.6 mg PO QHS 
16. Sucralfate 1 gm PO QID 
17. ClonazePAM 1.5 mg PO QHS 
18. ClonazePAM 0.5 mg PO DAILY at 8 am 
19. cranberry 2 tabs oral BID 
20. Furosemide 20 mg PO DAILY 
21. Guaifenesin ___ mL PO Q6H:PRN cough 
22. Ondansetron 4 mg PO Q8H:PRN nausea 
23. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
24. Vitamin D 50,000 UNIT PO MONTHLY 
25. Lidocaine Viscous 2% 15 mL PO TID:PRN esophagitis pain 
26. Warfarin 12 mg PO DAILY16 
27. Pantoprazole 40 mg PO Q12H 
28. ClonazePAM 1 mg PO DAILY 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Calcium Carbonate 1000 mg PO QID:PRN GI distress 
3. ClonazePAM 1.5 mg PO QHS 
RX *clonazepam 0.5 mg 3 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
4. ClonazePAM 0.5 mg PO DAILY at 8 am 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth daily Disp #*15 
Tablet Refills:*0
5. ClonazePAM 1 mg PO DAILY 
RX *clonazepam 1 mg 1 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Docusate Sodium 100 mg PO QHS 
8. Doxepin HCl 100 mg PO HS 
9. Lidocaine Viscous 2% 15 mL PO TID:PRN esophagitis pain 
10. Guaifenesin ___ mL PO Q6H:PRN cough 
11. Methadone 20 mg PO Q8H 
RX *methadone 10 mg 2 tablets by mouth every eight (8) hours 
Disp #*21 Tablet Refills:*0
12. Multivitamins 1 TAB PO DAILY 
13. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
RX *oxycodone 10 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0
14. QUEtiapine Fumarate 300 mg PO HS 
RX *quetiapine 300 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
15. Sucralfate 1 gm PO QID 
16. Senna 8.6 mg PO QHS 
17. QUEtiapine Fumarate 100 mg PO QAM 
RX *quetiapine 100 mg 1 tablet(s) by mouth qam Disp #*30 Tablet 
Refills:*0
18. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
19. Pantoprazole 40 mg PO Q12H 
20. Ondansetron 4 mg PO Q8H:PRN nausea 
Please give before meals 
21. FoLIC Acid 1 mg PO DAILY 
22. cranberry 2 tabs oral BID 
23. Ascorbic Acid ___ mg PO TID 
24. Vitamin D 50,000 UNIT PO MONTHLY 
25. Ferrous Sulfate 325 mg PO TID 
26. Furosemide 20 mg PO DAILY 
27. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % (700 mg/patch)  Apply to affected areas Disp 
#*10 Patch Refills:*0
28. Simethicone 120 mg PO TID abdominal pain 
29. Warfarin 15 mg PO DAILY16 
Adjust per INR 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Upper gastrointestinal bleed
Chronic esophagitis
Urinary Tract Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of ___ while ___ were admitted to 
___.

___ first came to the hospital because ___ were experiencing 
some dark stools and were loosing blood. We looked down your 
esophagus which showed evidence of inflammation. We performed an 
additional study which did not show evidence of a fistula or 
track formulation. We treated ___ with IV antibiotics for a 
urinary tract infection 

Please seek medical attention if ___ develop fevers, chills, 
lightheadedness, palpitations, dark and tarry stools, or bloody 
bowel movements.

We wish ___ all the best of health,

Your ___ healthcare team
 
Followup Instructions:
___